US07645756B2
Production of 6-(4-methoxyphenyl)-pyrido[3,4-d][1,2,4]triazolo[4,3-b]pyridazine
240 mg (4.0 mmol) of formohydrazide and 551 mg (4.0 mmol) of triethylamine hydrochloride were added to a xylene solution (10 ml) of 543 mg (2.0 mmol) of 4-chloro-1-(4-methoxyphenyl)-pyrido[3,4-d]pyridazine, and then stirred under reflux for 2 hours. Water was added to the reaction liquid, extracted with chloroform, and the organic layer was washed with saturated saline water. This was dried with anhydrous sodium sulfate, and then concentrated under reduced pressure to obtain 417 mg of a crude product of 6-(4-methoxyphenyl)-pyrido[3,4-d][1,2,4]triazolo[4,3-b]pyridazine.

reactant | formohydrazide | 4.0 mmol, 240 mg | C(=O)NN | CH4N2O
reactant | triethylamine hydrochloride | 4.0 mmol, 551 mg | Cl.C(C)N(CC)CC
reactant | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | 4-chloro-1-(4-methoxyphenyl)-pyrido[3,4-d]pyridazine | 2.0 mmol, 543 mg | ClC=1N=NC(=C2C1C=NC=C2)C2=CC=C(C=C2)OC | C14H10ClN3O
solvent | Water | O | H2O
product | 6-(4-methoxyphenyl)-pyrido[3,4-d][1,2,4]triazolo[4,3-b]pyridazine | 417 mg | COC1=CC=C(C=C1)C=1C2=C(C=3N(N1)C=NN3)C=NC=C2 | C15H11N5O
